US08202863B2
To a solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (0.5 g, 2.25 mmol) in THF (25 mL) is added carbonyl diimidazole (0.5 g, 2.7 mmol) and heated at 60° C. for 2 hours. The mixture is cooled to room temperature and (3-aminomethyl-benzyl)-carbamic acid tert-butyl ester (0.67 mL, 2.7 mmol) is added. The mixture is stirred for 12 h, diluted with EtOAc (100 mL), washed with brine (2×50 mL), dried with Na2SO4, filtered and concentrated in vacuo. The residue is purified by flash chromatography eluting with 20%-80% EtOAc/heptane to afford [3-({[2-(3-fluoro-phenyl)-pyrimidine-5-carbonyl]-amino}-methyl)-benzyl]-carbamic acid tert-butyl ester (0.8 g, 80%) as a solid. MS: 437 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 1.35 (s, 9H), 4.13 (d, J=6.1 Hz, 2H), 4.54 (d, J=5.9 Hz, 2H), 7.27-7.48 (m, 4H), 7.62 (m, 1H), 8.16 (m, 1H), 8.31 (m, 1H), 9.32 (s, 2H), 9.43 (m, 1H).

reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid | 2.25 mmol, 0.5 g | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C11H7FN2O2
reactant | carbonyl diimidazole | 2.7 mmol, 0.5 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | (3-aminomethyl-benzyl)-carbamic acid tert-butyl ester | 2.7 mmol, 0.67 mL | C(C)(C)(C)OC(NCC1=CC(=CC=C1)CN)=O | C13H20N2O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | [3-({[2-(3-fluoro-phenyl)-pyrimidine-5-carbonyl]-amino}-methyl)-benzyl]-carbamic acid tert-butyl ester | 0.8 g, 80% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)CNC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F)=O | C24H25FN4O3
